US07795236B2
tert-Butyl N-{2-[3-(4-hydroxypiperidine-1-yl)propoxy]-biphenyl-4-ylmethyl}carbamate
The title compound was prepared in a similar manner to that described in Reference Example 139 using tert-butyl N-[2-(3-chloropropoxy)biphenyl-4-ylmethyl]carbamate instead of 3-(3-chloropropoxy)-4-phenylbenzonitrile and piperidine-4-ol instead of pyrrolidine.

reactant | tert-butyl N-[2-(3-chloropropoxy)biphenyl-4-ylmethyl]carbamate | ClCCCOC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H26ClNO3
reactant | piperidine-4-ol | N1CCC(CC1)O | C5H11NO
product | tert-Butyl N-{2-[3-(4-hydroxypiperidine-1-yl)propoxy]-biphenyl-4-ylmethyl}carbamate | OC1CCN(CC1)CCCOC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C26H36N2O4
